US07456177B2
Preparation of 11-Allyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one
6,7-Dihydroxy-1-methoxy-5,6,7,8-tetrahydro-5,8-methano-benzocyclohepten-9-one (2.80 g, 12 mmol) was stirred at 0° C. in dichloromethane (15 mL) and treated with lead tetraacetate (Pb(OAc)4, 5.35 g, 12 mmol). After 30 min. the mixture was filtered through a Celite™ pad and rinsed with dichloromethane (50 mL). To the stirred filtrate was added AcOH (3.61 g, 60 mmol) and allyl amine (689 mg, 12 mmol). After 15 min., the mixture was treated with NaBH(OAc)3 (7.70 g, 36 mmol) and stirred for 18 h. The mixture was poured into a saturated aqueous Na2CO3 solution (100 mL) stirred for 30 min. The layers were separated and extracted with EtOAc (2×100 mL). The organic layer was washed with a saturated aqueous Na2CO3 solution (2×50 mL), H2O (50 mL), saturated aqueous NaCl solution (50 mL), dried over MgSO4, filtered and concentrated to an oil. Purification by chromatography on silica gel eluting with 5% EtOAc/hexanes provided product as an oil (885 mg, 29%). (TLC 30% EtOAc/hexanes Rf 0.67).

reactant | 6,7-Dihydroxy-1-methoxy-5,6,7,8-tetrahydro-5,8-methano-benzocyclohepten-9-one | 12 mmol, 2.80 g | OC1C2C3=C(C(C(C1O)C2)=O)C(=CC=C3)OC | C13H14O4
reactant | lead tetraacetate | 12 mmol, 5.35 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | AcOH | 60 mmol, 3.61 g | CC(=O)O | C2H4O2
reactant | allyl amine | 12 mmol, 689 mg | C(C=C)N | C3H7N
reactant | NaBH(OAc)3 | 36 mmol, 7.70 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 11-Allyl-6-methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-8-one | C(C=C)N1CC2C(C=3C(=CC=CC3C(C1)C2)OC)=O | C16H19NO2
